US07842685B2
To 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine (183 mg, 0.506 mmol) and 3-oxocyclobutanecarboxylic acid (63.5 mg, 0.557 mmol) in DCM (2.5 mL) and triethylamine (212 μl, 1.519 mmol) was added titanium(IV) chloride in DCM (0.759 ml, 0.759 mmol) at ambient temperature. The reaction mixture was concentrated, suspended in water, filtered, washed with water, and dried in a vacuum oven to give 3-((3-fluoro-4-(5-(1-phenyl-cyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)amino)cyclobutanecarboxylic acid as yellow solid. MS (ESI) m/z: Calculated: 459.1; Observed: 460.4 (M++H).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine | 0.506 mmol, 183 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N | C21H16FN3S
reactant | 3-oxocyclobutanecarboxylic acid | 0.557 mmol, 63.5 mg | O=C1CC(C1)C(=O)O | C5H6O3
reactant | triethylamine | 1.519 mmol, 212 μl | C(C)N(CC)CC | C6H15N
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | DCM | 0.759 mmol, 0.759 ml | C(Cl)Cl | CH2Cl2
product | 3-((3-fluoro-4-(5-(1-phenyl-cyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)amino)cyclobutanecarboxylic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NC1CC(C1)C(=O)O | C26H22FN3O2S
